US04745117
1-(4-Aminobutyl)-4-(1,2-benzisothiazol-3-yl)piperazine:
A mixture of N-[4-{4-(1,2-benzisothiazol-3-yl)-1-piperazinyl}butyl]phthalimide (1 g; 2.38 mmol), hydrazine hydrate (0.2 g; 3.57 mmol) and methanol (10 ml) was refluxed for 2.5 hours. After cooling, the reaction mixture was combined with a 10% aqueous hydrochloric acid solution (20 ml) and stirred. The precipitated crystals were removed by filtration, and the filtrate was neutralized with a 10% sodium hydroxide solution and extracted with chloroform. The organic layer was washed with a saturated sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography to give the objective compound as an oily substance. IR νmaxfilm (cm-1): 3360, 3280, 3070, 1590, 1560, 1490.

reactant | N-[4-{4-(1,2-benzisothiazol-3-yl)-1-piperazinyl}butyl]phthalimide | 2.38 mmol, 1 g | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCN2C(C=1C(C2=O)=CC=CC1)=O | C23H24N4O2S
reactant | hydrazine hydrate | 3.57 mmol, 0.2 g | O.NN
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 1-(4-Aminobutyl)-4-(1,2-benzisothiazol-3-yl)piperazine | NCCCCN1CCN(CC1)C1=NSC2=C1C=CC=C2 | C15H22N4S
